US04507315
2-(3-Trifluoromethylbenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide (9.0 g) was dissolved in hot isopropanol (90 ml). Concentrated aqueous hydrochloric acid (2.0 ml) was added. The resultant solution was evaporated to yield an oil which was recrystallised from ethyl acetate to give 2-(3-trifluoromethylbenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide hydrochloride (9.3 g) in the form of a white solid, m.p. 173°-175° C.

reactant | 2-(3-Trifluoromethylbenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide | 9.0 g | FC(C=1C=C(C=CC1)S(=O)(=O)NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1)(F)F | C20H19F3N4O3S
reactant | hydrochloric acid | 2.0 ml | Cl | ClH
solvent | isopropanol | 90 ml | C(C)(C)O | C3H8O
product | 2-(3-trifluoromethylbenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide hydrochloride | 9.3 g | Cl.FC(C=1C=C(C=CC1)S(=O)(=O)NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1)(F)F | InChI=1S/C20H19F3N4O3S.ClH/c21-20(22,23)15-5-3-6-16(13-15)31(29,30)26-18-8-2-1-7-17(18)19(28)25-9-4-11-27-12-10-24-14-27;/h1-3,5-8,10,12-14,26H,4,9,11H2,(H,25,28);1H
